US07485643B2
A mixture of 8-(2-chlorophenylamino)-6,7-difluoro-4-methyl-2H-phthalazin-1-one (30 mg, 0.093 mmol) and NIS (24 mg, 0.11 mmol) in AcOH-THF (2 mL/0.5 mL) was heated at 85° C. for 3 minutes The reaction mixture was concentrated in vacuo and washed with water. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that was purified by silica gel flash column chromatography (100% hexanes to 15% EtOAc in hexanes) to afford 8-(2-chloro-4-iodophenylamino)-6,7-difluoro-4-methyl-2H-phthalazin-1-one (7.7 mg, 17%). MS APCI (−) m/z 446, 448 (M-, Cl pattern) detected; 1H NMR (400 MHz, DMSO-d6) δ 12.74 (s, 1H), 10.96 (s, 1H), 7.86 (s, 1H), 7.60 (d, 1H), 7.53 (dd, 1H), 6.94 (t, 1H), 2.47 (s, 3H).

reactant | 8-(2-chlorophenylamino)-6,7-difluoro-4-methyl-2H-phthalazin-1-one | 0.093 mmol, 30 mg | ClC1=C(C=CC=C1)NC=1C(=C(C=C2C(=NNC(C12)=O)C)F)F | C15H10ClF2N3O
reactant | NIS | 0.11 mmol, 24 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | AcOH THF | 2 mL | CC(=O)O.C1CCOC1
product | 8-(2-chloro-4-iodophenylamino)-6,7-difluoro-4-methyl-2H-phthalazin-1-one | 7.7 mg, 17% | ClC1=C(C=CC(=C1)I)NC=1C(=C(C=C2C(=NNC(C12)=O)C)F)F | C15H9ClF2IN3O
